US04331680
4-Amino-4'-chlorobenzophenone (4 g.) was heated under reflux with a mixture of pyridine (15 ml.) and methanesulphonyl chloride (10 g.) for 30 mins. The mixture was then poured into a mixture of ice and hydrochloric acid and then filtered to give 4-chloro-4'-methylsulphonylaminobenzophenone m.p. 198°-200° C. A mixture of this product (2.4 g.) ethyl carbazate (2 g.) and a trace amount of pyridine hydrochloride in ethanol (50 ml.) was heated under reflux for 24 hours. The mixture was then cooled to 0° C. and filtered to give 4-chloro-4'-methylsulphonylaminobenzophenone ethoxycarbonyl hydrazone, m.p. 198°-200° C.

reactant | 4-Amino-4'-chlorobenzophenone | 4 g | NC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H10ClNO
reactant | methanesulphonyl chloride | 10 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-chloro-4'-methylsulphonylaminobenzophenone | ClC1=CC=C(C(=O)C2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C14H12ClNO3S
